US07223791B2
A mixture of 4-(1,3-dioxolan-2-yl)benzonitrile (1.0 g), sodium azide (1.48 g), triethylamine hydrochloride (1.18 g) and 1-methyl-2-pyrrolidinone (50 ml) was stirred at 150° C. for 3 hrs. After cooling, 1 M hydrochloric acid and water were added to the reaction mixture to adjust to pH=3 to 4. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from ethyl acetate to give 5-[4-(1,3-dioxolan-2-yl)phenyl]-1H-tetrazole (0.300 g, yield 24%) as brown prism crystals. melting point: 197–199° C. (decomposition).

reactant | 4-(1,3-dioxolan-2-yl)benzonitrile | 1.0 g | O1C(OCC1)C1=CC=C(C#N)C=C1 | C10H9NO2
reactant | sodium azide | 1.48 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 1.18 g | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[4-(1,3-dioxolan-2-yl)phenyl]-1H-tetrazole | 0.300 g, yield 24% | O1C(OCC1)C1=CC=C(C=C1)C1=NN=NN1 | C10H10N4O2
